US04798833
2-Amino-6-chloropurine (3.4 g), butadiene monoepoxide (1.65 g) and tetrakis (triphenylphosphine)palladium (0) (1.0 g) in dry dimethylformamide (75 ml) were stirred under a nitrogen atmosphere and heated at 60° C. for 45 minutes. The solvent was evaporated in vacuum (0.1 mm Mg) and the residue was triturated with hot chloroform (4×50 ml). The combined chloroform solutions were concentrated (25 ml volume) and diluted with ether (100 ml). The gummy precipitate was collected, dried and triturated with hot 1,2-dimethoxyethane (3×50 ml). The combined solutions were evaporated in vacuum (0.1 m Hg) to give a crude mixture (4 g) which was separated on a column of silica gel (500 g) eluted with chloroform+methanol 10+1 (800 ml) followed by chloroform+methanol 8+1. Fractions of about 15 ml were collected and the compound cis-4-(2-Amino-6-chloropurin-9-yl)-2-buten-1-ol was obtained as a minor product (0.2 g) in fractions 74-78. M.p. 160°-165° C.

reactant | 2-Amino-6-chloropurine | 3.4 g | NC1=NC(=C2NC=NC2=N1)Cl | C5H4ClN5
reactant | butadiene monoepoxide | 1.65 g | C=CC1CO1 | C4H6O
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | cis-4-(2-Amino-6-chloropurin-9-yl)-2-buten-1-ol | NC1=NC(=C2N=CN(C2=N1)C\C=C/CO)Cl | C9H10ClN5O
